US04061656
34.3 G. of 3-bromomethyl-thiophene and 61.0 g. of triphenylphosphine were dissolved in 500 ml. of benzene. The resulting mixture was refluxed overnight under argon and then cooled to room temperature. The tan phosphonium salt which precipitated was collected by filtration, washed several times with toluene and dried at 100° C. under high vacuum to yield (3-thenyl)triphenylphosphonium bromide, m.p. > 270° C.

reactant | 3-bromomethyl-thiophene | BrCC1=CSC=C1 | C5H5BrS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (3-thenyl)triphenylphosphonium bromide | [Br-].C1=C(C=CS1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H20PS.BrH/c1-4-10-21(11-5-1)24(18-20-16-17-25-19-20,22-12-6-2-7-13-22)23-14-8-3-9-15-23;/h1-17,19H,18H2;1H/q+1;/p-1
